Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / amoxicillin / oxycodone / Ciprodex / amitriptyline 
/ Epiduo
 
Attending: ___.
 
Chief Complaint:
Suicidal ideation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female with PMH of bilateral parietal polymicrogyria
pachygyria (dx MRI ___, autism with cog impairment, and recent
diagnosis of progressive eustachian tube dysfunction, and mild 
CP
(grand mal seizure at ___ presenting with acute SI and active
plan. Mother providing most of history per patient request. She
states that she has been declining mentally with thoughts of
ending her life due to feeling hollow. Her plan is to wake up
early and overdose on her medications and slit her wrists. Has
not attempted before. No HI/AH/VH. Her mother states that she 
has
been in a partial hospitalization program (Triangle) and goes
home on the weekend with her, however, patient has been
declining. Her most acute stressor is learning that the
eustachian tube dysfunction is worsening with attic retraction
pockets bilaterally. Patient has reportedly been cutting her
wrists and verbally abusing her mother, with history of throwing
furniture during hospitalizations. 

Also complaining of white, curdled vaginal discharge and
requesting yeast infection med. Has never had pelvic exam 
before.
No dysuria, hematuria, pruritus, N/V/CD.

On ___. Mother at bedside is LICSW and HCP. 

In the ED:
- Initial vital signs: T 99.8 HR 89 BP114/75 RR 18 100% RA 
- Exam notable for: Mild irritation noted to wrist.
- Labs were notable for: Contaminated UA, neg UCG, nl CBC+BMP
- Studies performed include: EKG w NSR, QTc 449
- Patient was given: fluconazole 150mg x1, macrobid ___ x1,
many doses of quetiapine, prazosin, sertraline, hydroxyzine, mag
ox as patient in ED from ___

- Consults: PSYCH 
Initial (___)
1. Continue ___. ___ not leave AMA. Continue CO. 
2. Will initiate inpatient bed search. 
3. Continue patient's home medications:
---- Seroquel 50 mg QID
---- Atarax 25 mg TID 
---- Zoloft 150 mg QHS
4. Unlikely to require chemical restraint, would recommend 
verbal
redirection and behavioral intervention. If patient does not
respond, would recommend offering Seroquel 50 mg PRN. Recommend
avoiding IM antipsychotic medication if at all possible.

Upon arrival to the floor, patient's mother provides majority of
hx as patient states she is very anxious from the transfer from
ED, which patient and family were not told about ahead of time
until stretcher arrived to bring her upstairs. Given her autism,
she appreciates early warning for changes such as these. She 
also
is anxious because of 1:1 sitter, and wondering when can be
discontinued as denies any SI/SIB for several days. Per her
mother, the action of 1:1 sitter staring directly at her
exacerbates anxiety in patients on autism spectrum. No other
concerns. 

 
Past Medical History:
- Bilateral parietal polymicrogyria pachygyria (diagnosed on MRI
in ___
- Autism spectrum disorder with cognitive impairment (IQ in
the ___) 
- Progressive eustachian tube dysfunction s/p bilateral ET tube
placement and balloon dilation on ___
- Mild cerebral palsy
- Non-Verbal learning disorder, language delays
- Left hemispatial neglect
- Multiple tooth extractions due to mal-development. 
 
Social History:
___
Family History:
Unknown as patient was adopted. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS: T: 98.3, BP: 112/71, HR: 91, RR: 16, O2 sat: 99%
GENERAL: Sitting up eating lunch in bed, some arm tremors which
she attributes to anxiety from recent transfer from ED to floor,
cooperative w interview  
PULM: Normal WOB on room air. 
NEUROLOGIC: AOx3, face symmetric, moving all extremities w
purpose 
PSYCH: decently groomed, decreased eye contact, mood "better but
anxious right now", affect anxious, difficult to assess thoughts
and insight as mother is speaking most of the time
Remainder of physical exam deferred given patient's anxiety. 

DISCHARGE PHYSICAL EXAM
=======================
VS: T 98.2|BP 114/72|HR 81|RR 18|SpO2 99% RA
GENERAL: lying in bed, reports feeling depressed still but feels 
more positive as being transferred to more appropriate facility
PULM: Normal WOB on room air. 
NEUROLOGIC: AOx3, face symmetric, moving all extremities w
purpose 
Ext: no cyanosis clubbing edema appreciated
Skin: no rash appreciated
PSYCH: decently groomed, decreased eye contact, normal affect
 
Pertinent Results:
ADMISSION LABS
==============
Labs were notable for UA contaminated with skin flora, neg UCG, 
nl CBC+BMP

All results:
CBC
___ 11:50AM BLOOD WBC-7.2 RBC-4.21 Hgb-13.1 Hct-39.8 MCV-95 
MCH-31.1 MCHC-32.9 RDW-12.7 RDWSD-43.6 Plt ___
___ 11:50AM BLOOD Neuts-71.1* ___ Monos-6.7 Eos-1.1 
Baso-0.7 Im ___ AbsNeut-5.10 AbsLymp-1.44 AbsMono-0.48 
AbsEos-0.08 AbsBaso-0.05

BMP
___ 11:50AM BLOOD Glucose-89 UreaN-13 Creat-0.6 Na-139 
K-4.2 Cl-103 HCO3-27 AnGap-9*

Lytes
___ 11:50AM BLOOD Mg-2.1

UA
___ 01:44PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 01:44PM URINE Blood-LG* Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-SM*
___ 01:44PM URINE RBC->182* WBC-14* Bacteri-FEW* Yeast-NONE 
Epi-1
___ 01:44PM URINE Mucous-RARE

UCG
___ 01:44PM URINE UCG-NEGATIVE

DISCHARGE LABS
==============
Urine Ctx
___ 1:44 pm URINE
                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING
========
EKG ___ 19:26:07
Sinus rhythm 
Normal ECG

 
Brief Hospital Course:
PATIENT SUMMARY
===============
___ F w hx of bilateral parietal polymicrogyria pachygyria (dx
MRI ___, autism with cognitive impairment, and recent 
diagnosis
of progressive eustachian tube dysfunction, presented to ED w
active SI and plan on ___, admitted to medicine floor given
ongoing wait for inpatient psych bed placement and 1:1 
monitoring. Her hospital stay was uncomplicated and 1:1 
monitoring was discontinued as suicidal ideation resolved. She 
was transferred to a facility that could meet her mental health 
needs on ___.

ACUTE ISSUES
============
#Suicidal ideation
Initially presented to the ED with active suicidal ideation. Was 
seen in the emergency department and evaluated by psychiatry who 
concluded that she met ___ criteria and should be 
hospitalized for inpatient psychiatric treatment and a bed 
search was initiated. The policy of ___ is that any patient 
who fails to find a bed within 72 hours should be admitted to 
medicine and the bed search continued. She was transferred to 
___ with 1 to 1 monitoring while and her home meds were 
continued. Eventually her active suicidal ideation resolved, and 
1 to 1 monitoring was discontinued. Eventually a bed at an 
appropriate facility was located and the patient was 
uneventfully discharged and transferred.

CHRONIC ISSUES
==============
#Autism spectrum disorder
Per patient's request, changes in plans and updates were 
provided at regular intervals as to avoid provoking anxiety.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. QUEtiapine Fumarate 50 mg PO QID 
2. QUEtiapine Fumarate 50 mg PO BID:PRN ? 
3. Sertraline 150 mg PO QPM 
4. HydrOXYzine 50 mg PO TID 
5. Prazosin 2 mg PO QHS 

 
Discharge Medications:
1.  HydrOXYzine 50 mg PO QPM  
2.  HydrOXYzine 50 mg PO TID 
RX *hydroxyzine HCl 50 mg 50 mg by mouth four times a day Disp 
#*30 Tablet Refills:*0 
3.  Prazosin 2 mg PO QHS 
RX *prazosin [Minipress] 2 mg 1 capsule(s) by mouth at bedtime 
Disp #*30 Capsule Refills:*0 
4.  QUEtiapine Fumarate 50 mg PO QID 
RX *quetiapine 50 mg 1 tablet(s) by mouth four times a day Disp 
#*30 Tablet Refills:*0 
5.  Sertraline 150 mg PO QPM 
RX *sertraline 100 mg 1.5 tablet(s) by mouth QPM Disp #*30 
Tablet Refills:*0 
6. HELD- QUEtiapine Fumarate 50 mg PO BID:PRN ?  This medication 
was held. Do not restart QUEtiapine Fumarate until you clarify 
dosing with a physician
7. HELD- QUEtiapine Fumarate 50 mg PO BID:PRN ?  This medication 
was held. Do not restart QUEtiapine Fumarate until Until you 
clarify dosing with your doctor

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Suicidal Ideation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
- You were experiencing suicidal thoughts 

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
- Your home medications were continued
- You were monitored to assure that your mental health was OK
- A bed at an appropriate facility was found and you were 
transferred

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments.  

We wish you all the best!

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___